US07335712B2
To a dry-ice cooled suspension of 4.0 g of sodium hydride (60% dispersion in mineral oil) in 80 ml of anhydrous THF was dropwise added a solution of 7.44 ml of 1-propanol in 30 ml of the same solvent, and the mixture was slowly warmed to room temperature with continued stirring for 1 hr under nitrogen. A solution of 15.0 g of t-butyldimethylchlorosilane in 40 ml of THF was slowly added by syringe and continued stirring for 3 hr at room temperature. After distillation of the solvent, house vacuum distillation afforded the pure t-butyldimethyl-n-propoxysilane as a colorless liquid (106° C./house vacuum, 12.0 g, 69.2%). 1HNMR (CDCl3): δ 0.05 (s, 6H), 0.88 (t, J=7.5Hz, 3H), 0.89 (s, 9H), 1.53 (sextet, 2H), 3.56 (t, J=6.6 Hz, 2H). 13C-NMR (CDCl3): δ−5.08 (2C), 10.47 (1C), 18.58 (1C), 26.17 (3C), 26.21 (1C), 65.13 (1 C).

reactant | dry-ice | C(=O)=O | CO2
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 1-propanol | 7.44 ml | C(CC)O | C3H8O
reactant | t-butyldimethylchlorosilane | 15.0 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | t-butyldimethyl-n-propoxysilane | C(C)(C)(C)[Si](OCCC)(C)C | C9H22OSi
